US08729274B2
trans-2-Benzyl-3a-methyl-6-(prop-1-en-2-yl)-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]isoindole (0.359 mmol, 134 mg) was dissolved in toluene (1 ml). ACE-Cl (2.95 mmol, 325 μl) was added and the reaction mixture was heated in a microwave reactor at 160° C. for 15 minutes. MeOH (1 ml) was added and the mixture was again heated in a microwave reactor at 160° C. for 5 minutes. The resulting mixture was passed through an SCX cartridge and the resulting filtrate was concentrated in vacuo to give a crude residue that was purified by preparative-HPLC. To the pure fractions was added HCl in ether (1 ml) and the resulting solution was concentrated in vacuo to afford trans-3a-methyl-6-(prop-1-en-2-yl)-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]isoindole hydrochloride (41 mg), MS m/z: 228.1 [M+H]+.

reactant | trans-2-Benzyl-3a-methyl-6-(prop-1-en-2-yl)-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]isoindole | 0.359 mmol, 134 mg | C(C1=CC=CC=C1)N1C[C@]2(CCC3=C([C@@H]2C1)C=CC=C3C(=C)C)C | C23H27N
reactant | ACE-Cl | 2.95 mmol, 325 μl | CC(OC(=O)Cl)Cl | C3H4Cl2O2
reactant | MeOH | 1 ml | CO | CH4O
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
product | trans-3a-methyl-6-(prop-1-en-2-yl)-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]isoindole hydrochloride | 41 mg | Cl.C[C@@]12CCC3=C([C@@H]2CNC1)C=CC=C3C(=C)C | InChI=1S/C16H21N.ClH/c1-11(2)12-5-4-6-14-13(12)7-8-16(3)10-17-9-15(14)16;/h4-6,15,17H,1,7-10H2,2-3H3;1H/t15-,16+;/m0./s1
